US09216972B2
To a fresh solution of lithium diisopropylamide made by adding butyllithium (6.64 mL, 16.6 mmol) to a stirred mixture of diisopropylamine (2.33 mL, 16.6 mmol) in THF (10 mL) at 0° C. was added a solution of (E)-6-methoxy-3,4-dihydronaphthalen-1(2H)-one oxime (I-2, 1.06 g, 5.53 mmol) in THF (4 mL) over 2 minutes. After complete addition, the reaction mixture turned orange-colored and was stirred for an additional 20 minutes. Methyl 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylate (I-5, 1.00 g, 3.69 mmol) in THF (4 mL) was then added over 5 minutes. The resulting reaction mixture turned dark brown and was stirred for thirty minutes at 0° C. The reaction mixture was allowed to warm to room temperature, quenched with conc. sulfuric acid (1.0 mL), and concentrated under vacuum. The residue was taken up in toluene (25 mL), filtered, and dried. To the filtrate was added pyridine (1.5 mL) and thionyl chloride (0.234 mL, 3.20 mmol), and the reaction mixture was heated at 110° C. for about 20 minutes. The residue was taken up in ethyl acetate (50 mL), stirred, and filtered. The filtrate was concentrated in vacuo to give a dark brown crude product mixture. This crude product was chromatographed on silica gel eluting with a 10% mixture of ethyl acetate in hexane to give 7-Methoxy-3-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-4,5-dihydronaphtho[1,2-c]isoxazole (416 mg, 3.69 mmol, 27%) as a yellowish solid. The product had an HPLC ret. time=4.32 min (condition B). LC/MS M+1=413.15.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | 16.6 mmol, 6.64 mL | C(CCC)[Li]
reactant | diisopropylamine | 16.6 mmol, 2.33 mL | C(C)(C)NC(C)C | C6H15N
reactant | (E)-6-methoxy-3,4-dihydronaphthalen-1(2H)-one oxime | 5.53 mmol, 1.06 g | COC=1C=C2CCC\C(\C2=CC1)=N/O | C11H13NO2
reactant | Methyl 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylate | 3.69 mmol, 1.00 g | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)OC)C(F)(F)F | C12H8F3NO3
reactant | thionyl chloride | 3.20 mmol, 0.234 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 7-Methoxy-3-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-4,5-dihydronaphtho[1,2-c]isoxazole | 3.69 mmol, 416 mg, 27% | COC=1C=C2CCC=3C(=NOC3C3=NOC(=C3C(F)(F)F)C3=CC=CC=C3)C2=CC1 | C22H15F3N2O3
